US06211199B1
49.4 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-3-yl)-3-(2-hydroxyethyl)pyrrolidine
Prepare by the method of Example 5.2.2 using 3-(pyrid-3-yl)-3-(2-hydroxyethyl)pyrrolidine, 3,4,5-trimethoxybenzoyl chloride, and sodium bicarbonate to give, after chromatography on silica gel eluting with dichloromethane/methanol 5/1, the title compound.

reactant | 3-(pyrid-3-yl)-3-(2-hydroxyethyl)pyrrolidine | N1=CC(=CC=C1)C1(CNCC1)CCO | C11H16N2O
reactant | 3,4,5-trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane methanol | ClCCl.CO
product | 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-3-yl)-3-(2-hydroxyethyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CCO)C=2C=NC=CC2)C=C(C1OC)OC | C21H26N2O5
